US04089956
Cis-1-(2,4-dimethoxybenzyl)-2-diazacetyl-3-azido-4-azetidinone
To a suspension of 10.1 g (33 mmole) of cis-1-(2,4-dimethoxybenzyl)-3-azido-4-oxo-azetidine-2-carboxylic acid (prepared by reacting the product of example 1 with potassium carbonate in aqueous tetrahydrofuran) in 100 ml of dry benzene at 5° was added 2.54 ml (29.5 mmole) of oxalyl chloride under argon. With vigorous stirring, 2.37 ml (29.5 mmole) of dry pyridine was added dropwise during which time considerable gas evolution occurred. After stirring for 1 hour, the suspension was filtered, the solid washed with cold dry benzene and the combined filtrates concentrated to one-half its volume in vacuum. The acid chloride solution was diluted to its original volume with dry benzene and added dropwise to an ethereal diazomethane solution (0.12 mole, 1.1 L) at 0° with vigorous stirring. A slow stream of argon was passed through the suspension while stirring was continued for 18 hours. 200 ml of water was added to the reaction mixture, the organic phase separated, dried (MgSO4), filtered with suction, and the solvent removed by distillation at reduced pressure. The product was then triturated with 50% diethylether in hexane, collected by suction filtration, and chromatographed (silica gel: benzene with an ethyl acetate gradient up to 30%) yielding 8.5 gr (78.0%) of the title compound as light yellow crystals, mp 83°-84.5°. The corresponding α-chloroketone (2.6 gr, 22.2%) was isolated as a white crystalline solid (mp. 69°-71°).

reactant | cis-1-(2,4-dimethoxybenzyl)-3-azido-4-oxo-azetidine-2-carboxylic acid | 33 mmole, 10.1 g | COC1=C(CN2[C@H]([C@H](C2=O)N=[N+]=[N-])C(=O)O)C=CC(=C1)OC | C13H14N4O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | oxalyl chloride | 29.5 mmole, 2.54 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 29.5 mmole, 2.37 ml | N1=CC=CC=C1 | C5H5N
reactant | diazomethane | 0.12 mole, 1.1 L | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | 200 ml | O | H2O
product | Cis-1-(2,4-dimethoxybenzyl)-2-diazacetyl-3-azido-4-azetidinone | 8.5 gr, 78.0% | COC1=C(CN2[C@H]([C@H](C2=O)N=[N+]=[N-])NNCCCCCCCCCCCCCC)C=CC(=C1)OC | C26H44N6O3
